US09056859B2
6-methyl-5-[2-(4-{[4-(1h-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one
To a flask charged with (6-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde (100 mg, 0.53 mmol) was added 1-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine hydrochloride (162 mg, 0.53 mmol), sodium cyanoborohydride (165 mg, 2.6 mmol), methanol (10 mL), and a drop of acetic acid. The mixture was allowed to stir at RT for 16 hours. LC showed formation of the desired product. The solvent was removed under reduced pressure. The residue was redissolved in DMSO-water, and purified by mass-directed HPLC. LC/MS: (1E, m/z) (M+1)+=447.3;

reactant | (6-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | 0.53 mmol, 100 mg | CC=1C(=CC2=C(C(OC2)=O)C1)CC=O | C11H10O3
reactant | 1-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine hydrochloride | 0.53 mmol, 162 mg | Cl.N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCNCC1
reactant | sodium cyanoborohydride | 2.6 mmol, 165 mg | C(#N)[BH3-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-methyl-5-[2-(4-{[4-(1h-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one | CC=1C(=CC2=C(C(OC2)=O)C1)CCN1CCN(CC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O | C24H26N6O3
